US07342127B2
5-(2,6-Dibromo-3-methyl-4-nitrophenoxy)-2-hydroxy-3-isopropylbenzaldehyde of Part 8D (100 mg, 0.21 mmol), Na2S2O4 (553 mg, 3.2 mmol), NaHCO3 (0.2 mL, saturated aqueous solution) and ethanol (1.8 mL) were mixed in a microwave safe reaction vial. The vial was sealed and irradiated for 5 minutes at 140° C. NaHCO3 (5 mL, saturated aqueous solution) was added to the reaction mixture and the organic phase removed in vacuo. The obtained suspension was extracted with CHCl3 and the two phases were separated with phase separator (IST). The organic phase was concentrated and filtration through a pad of silica gave 25 mg (27%) of 5-(4-amino-2,6-dibromo-3-methylphenoxy)-2-hydroxy-3-isopropylbenzaldehyde as white foam.

reactant | 5-(2,6-Dibromo-3-methyl-4-nitrophenoxy)-2-hydroxy-3-isopropylbenzaldehyde | BrC1=C(OC=2C=C(C(=C(C=O)C2)O)C(C)C)C(=CC(=C1C)[N+](=O)[O-])Br | C17H15Br2NO5
reactant | Na2S2O4 | 3.2 mmol, 553 mg | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | NaHCO3 | 0.2 mL | C(=O)(O)[O-].[Na+]
reactant | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
solvent | ethanol | 1.8 mL | C(C)O | C2H6O
product | 5-(4-amino-2,6-dibromo-3-methylphenoxy)-2-hydroxy-3-isopropylbenzaldehyde | 25 mg, 27% | NC1=C(C(=C(OC=2C=C(C(=C(C=O)C2)O)C(C)C)C(=C1)Br)Br)C | C17H17Br2NO3
